US07326791B2
N-[1-(1H-benzimidazol-2-yl)ethyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide
Prepared analogously to Example 1g from 3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzoic acid, TBTU, diisopropylethylamine, and 1-(1H-benzimidazol-2-yl)ethylamine in tetrahydrofuran. Yield: 83%; Rf value: 0.67 (silica gel; methylene chloride/ethanol=9:1); C22H24N4O2 (376.46); mass spectrum: (M+H)+=377.

reactant | 3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzoic acid | CC=1C=C(C(=O)O)C=CC1C(=O)N1CCCC1 | C13H15NO3
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-(1H-benzimidazol-2-yl)ethylamine | N1C(=NC2=C1C=CC=C2)C(C)N | C9H11N3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | methylene chloride ethanol | C(Cl)Cl.C(C)O
product | N-[1-(1H-benzimidazol-2-yl)ethyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide | Yield: 83% | N1C(=NC2=C1C=CC=C2)C(C)NC(C2=CC(=C(C=C2)C(=O)N2CCCC2)C)=O | C22H24N4O2
